US04678826
N-Phenyl-3-[(N,N-dibenzylamino)oxy]pyrrolidine-2,5-dione
A suspension of 6.0 g (28 mmole) of N,N-dibenzylhydroxylamine and 4.87 g (28 mmole) of N-phenylmaleimide in 50 ml of dry tetrahydrofuran is heated at reflux for 40 hours. The solvent is removed in vacuo and the residue is recrystallized from toluene to give 6.1 g (56%) of a white solid, mp 91°-93° C.:

reactant | N,N-dibenzylhydroxylamine | 28 mmole, 6.0 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | N-phenylmaleimide | 28 mmole, 4.87 g | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-Phenyl-3-[(N,N-dibenzylamino)oxy]pyrrolidine-2,5-dione | 6.1 g, 56% | C1(=CC=CC=C1)N1C(C(CC1=O)ON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C24H22N2O3
